US06403610B1
A mixture of 4.9 g of methyl (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-acetate, 2.9 g of 2-chloroethyl cyclopentyl sulfide, 9 g of potassium carbonate, and 2.7 g of potassium iodide in 130 cm3 of acetonitrile was stirred for 17 hours at a temperature in the region of 65° C. After cooling to a temperature in the region of 20° C., the reaction mixture has 150 cm3 of water added and was extracted with 3 times 60 cm3 of ethyl acetate. The organic extracts were combined, washed with 2 times 50 cm3, dried over magnesium sulfate, filtered, and concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. An oil was obtained, which product was purified by chromatography at atmospheric pressure on a column of silica gel (particle size 20-45 μm; diameter 4 cm; silica volume 300 cm3), elution was carried out with pure ethyl acetate, and approximately 70-cm3 fractions were collected. The fractions comprising the expected product were combined and then concentrated under the above conditions. 2.6 g of methyl (3R,4R)-4-(3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(cyclopentylthio)ethyl]piperidine-3-acetate were obtained in the form of an oil with a yellow color.

reactant | methyl (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-acetate | 4.9 g | O=C(CC[C@H]1[C@H](CNCC1)CC(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C21H26N2O4
reactant | 2-chloroethyl cyclopentyl sulfide | 2.9 g | C1(CCCC1)SCCCl | C7H13ClS
reactant | potassium carbonate | 9 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 2.7 g | [I-].[K+]
solvent | acetonitrile | 130 cm3 | C(C)#N | C2H3N
solvent | water | 150 cm3 | O | H2O
product | methyl (3R,4R)-4-(3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(cyclopentylthio)ethyl]piperidine-3-acetate | 2.6 g | O=C(CC[C@H]1[C@H](CN(CC1)CCSC1CCCC1)CC(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C28H38N2O4S
